US06693099B2
4-(tert-Butoxycarbonyl)-1-(ethoxycarbonylmethyl)piperazine (3)
1-(Ethoxycarbonylmethyl)-piperazine (5.00 g, 29.0 mmol) is dissolved in 35 mL of 50% aqueous dioxane. Triethylamine (4.41 g, 43.5 mmol) is added followed by 2-(tert-butoxycarbonyloxyimino)-2-phenylacetonitrile (7.86 g, 31.9 mmol). The reaction is stirred for 14.5 hours at ambient temperature, then poured onto water and extracted with ethyl acetate (2×100 mL). The combined organic extracts are washed with water (3×100 mL), brine, dried over MgSO4, filtered, and concentrated in vacuo. The residue is purified via silica gel chromatography with gradient elution (20%→50% ethyl acetate in hexanes) affording the desired product as an oil. CIMS: MH+ 273.

reactant | 1-(Ethoxycarbonylmethyl)-piperazine | 29.0 mmol, 5.00 g | C(C)OC(=O)CN1CCNCC1 | C8H16N2O2
reactant | Triethylamine | 43.5 mmol, 4.41 g | C(C)N(CC)CC | C6H15N
reactant | 2-(tert-butoxycarbonyloxyimino)-2-phenylacetonitrile | 31.9 mmol, 7.86 g | C(C)(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
solvent | dioxane | 35 mL | O1CCOCC1 | C4H8O2
product | 4-(tert-Butoxycarbonyl)-1-(ethoxycarbonylmethyl)piperazine | C(C)(C)(C)OC(=O)N1CCN(CC1)CC(=O)OCC | C13H24N2O4
